US04386092
To a suspension of 10.2 g of 2-phenylindolizine in 150 ml of benzene were added 6 ml of pyridine and 9.6 g of β-methoxycarbonylpropionyl chloride and the mixture was refluxed overnight. After cooling, 50 ml of water was added and the whole mixture was extracted with benzene. After the extract was decolorized and concentrated, to the residue was added 30 ml of isopropyl ether and the mixture was cooled to precipitate methyl 4-(2-phenyl-3-indolizinyl)-4-oxobutyrate. The precipitate was filtered off and then this ester compound was hydrolyzed in a conventional manner to give 8.3 g of 4-(2-phenyl-3-indolizinyl)-4-oxobutyric acid, melting at 131°-133° C.

reactant | 2-phenylindolizine | 10.2 g | C1(=CC=CC=C1)C=1C=C2C=CC=CN2C1 | C14H11N
reactant | pyridine | 6 ml | N1=CC=CC=C1 | C5H5N
reactant | β-methoxycarbonylpropionyl chloride | 9.6 g | COC(=O)CCC(=O)Cl | C5H7ClO3
reactant | water | 50 ml | O | H2O
solvent | benzene | 150 ml | C1=CC=CC=C1 | C6H6
product | 4-(2-phenyl-3-indolizinyl)-4-oxobutyric acid | 8.3 g | C1(=CC=CC=C1)C=1C=C2C=CC=CN2C1C(CCC(=O)O)=O | C18H15NO3
